data/core_train_final.csv
"[H:8][C:7]([H:9])([H:10])[CH:5]([CH3:6])[CH2:4][CH2:3][C:2]([CH3:1])([CH3:11])[CH3:12].[Cl:13]>>[H:10][C:7]([H:8])[CH:5]([CH3:6])[CH2:4][CH2:3][C:2]([CH3:11])([CH3:12])[CH3:1].[H:9][Cl:13] 13-13,9;9,7-9,13;9,7-7",Room Temperature,Propagation,abstraction
"[CH2:2]1[CH:3]=[CH:4][CH:5]2[CH:8]=[CH:9][CH:1]1[O:7][O:6]2.[Ar:10]>>[CH2:2]1[CH:3]=[CH:4][CH:5]([CH:8]=[CH:9][CH:1]1[O:7])[O:6].[Ar:10] 7,6-6; 7,6-7",Room Temperature,Initiation,homolyze
"[O:20](OCl)[Cl:21].[He]>>[He].[O:20]OCl.[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[H:20][O:21]C1=C(C=C(C=C1)OC)C(C)(C)C.[OH:10]>>[H:20][OH:10].CC(C)(C)C1=C(C=CC(=C1)OC)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCOC(=O)[C:10](C/C=C\[CH:20]=[C:21](/C)\C[Sn](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)C(=O)OCC>>CCOC(=O)[C:10]1(C/C=C\[CH:20]1[C:21](C)C[Sn](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)C(=O)OCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH2:10]CCl.[Cl:20][Cl:21]>>C([CH2:10][Cl:20])Cl.[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:8][S:9][CH2:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15][CH2:16][CH3:17].[CH3:1][CH2:2][CH2:3][CH2:4][CH:5][CH2:6][CH3:7]>>[H:8][CH:5]([CH2:6][CH3:7])[CH2:4][CH2:3][CH2:2][CH3:1].[CH3:17][CH2:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][S:9] 5-5,8; 9,8-5,8; 9,8-9",Room Temperature,Propagation,abstraction
"CC1(CC[CH:20]C=C1)C.[Br:10][Br:11]>>CC1(CC[CH:20](C=C1)[Br:10])C.[Br:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"CCC(C[CH:10]C#N)C#N.[CH2:20]=[CH:21]C#N>>CCC(C[CH:10]([CH2:20][CH:21]C#N)C#N)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH:6]1=[CH:5][CH:4]=[C:3]([CH:8]=[CH:7]1)[C:2](=[O:9])[O:1]>>[CH:6]1=[CH:5][CH:4]=[C:3][CH:8]=[CH:7]1.[C:2](=[O:1])=[O:9] 3,2-3;2,3-2,1;1-1,2",Room Temperature,Propagation,retroaddition
"[H:6][C:5]1([CH2:8][CH2:9][C:2]([CH:3]=[CH:4]1)([CH3:1])[CH3:10])[H:7].[Br:11]>>[H:6][C:5]1[CH2:8][CH2:9][C:2]([CH:3]=[CH:4]1)([CH3:1])[CH3:10].[H:7][Br:11] 11-11,7;7,5-11,7;5,7-5",Room Temperature,Propagation,abstraction
"[CH3:5][C:6](=[CH2:9])[CH:7]=[CH2:8].[O-:3][S:2](=[O:1])=[O:4].[Na+:10]>>[CH3:5][C:6](=[CH:7][CH2:8][S:2](=[O:1])(=[O:4])[O-:3])[CH2:9].[Na+:10] 2-2,8; 8,7-2,8; 7,8-6,7; 6,9-6,7; 6,9-9",Room Temperature,Propagation,addition
"CC(=C(C)[CH2:10])C.[Br:20][Br:21]>>CC(=C(C)[CH2:10][Br:20])C.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(C[CH:10]N1CCCC1=O)C#N.[CH2:20]=[CH:21]N1CCCC1=O>>CC(C)(C[CH:10]([CH2:20][CH:21]N1CCCC1=O)N2CCCC2=O)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:1][C:2]1=[C:3]([CH:5]=[CH:6][CH:7]=[CH:8]1)[H:4].[Na:9]>>[H:4][C:3]1[CH:5]=[CH:6][CH:7]=[CH:8][C:2]1([H:1])[Na:9] 2,3-2,9;2,3-3;9-2,9",Room Temperature,Propagation,addition
"[H:5][C:3]([CH3:4])([CH3:6])[C:2](=[O:1])[O:7][O:8][C:9](=[O:14])[C:10]([H:12])([CH3:11])[CH3:13].[Ar]>>[Ar].[H:5][C:3]([CH3:4])([CH3:6])[C:2](=[O:1])[O:7].[H:12][C:10]([CH3:11])([CH3:13])[C:9](=[O:14])[O:8] 7,8-7;7,8-8",Heat,Initiation,homolyze
"[CH3:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][S:9][CH2:10][C:11]([CH3:16])[C:12](=[O:15])[O:13][CH3:14].[CH3:23][C:18](=[CH2:17])[C:19](=[O:22])[O:20][CH3:21]>>[CH3:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][S:9][CH2:10][C:11]([CH3:16])([CH2:17][C:18]([CH3:23])[C:19](=[O:22])[O:20][CH3:21])[C:12](=[O:15])[O:13][CH3:14] 11-11,17; 18,17-11,17; 18,17-18",Room Temperature,Propagation,addition
"CCCC[Sn](CCCC)(CCCC)Br.CC1(CCC2(C1[CH:10]C(C2)CC[C:20]#[CH:21])C)C>>CCCC[Sn](CCCC)(CCCC)Br.CC1(CCC2(C1[CH:10]3C(C2)CC[C:20]3=[CH:21])C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC[C:20](C)C.[Br:10][Br:11]>>CC[C:20](C)(C)[Br:10].[Br:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[Br:20][Br:21].[Ar]>>[Ar].[Br:20].[Br:21] 20,21-20;20,21-21",Heat,Initiation,homolyze
"[H:20][CH2:21]CC(C(Cl)(Cl)Cl)F.[Cl:10]>>[H:20][Cl:10].[CH2:21]CC(C(Cl)(Cl)Cl)F 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:10][C:9](=[C:8]1[CH2:7][CH2:6][CH2:5][CH2:4][C:2]1([H:1])[H:3])[H:11].[Br:12]>>[H:1][C:2]1[CH2:4][CH2:5][CH2:6][CH2:7][C:8]1=[C:9]([H:10])[H:11].[H:3][Br:12] 12-12,3;2,3-2;2,3-3,12",Room Temperature,Propagation,abstraction
"[CH3:13][C:14]([CH3:22])[O:15][C:16]1=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]1.[CH3:1][C:2]([CH3:12])([O:5][C:6]1=[CH:7][CH:8]=[CH:9][CH:10]=[CH:11]1)[O:3][O:4]>>[CH3:1][C:2]([CH3:12])([O:5][C:6]1=[CH:7][CH:8]=[CH:9][CH:10]=[CH:11]1)[O:3][O:4][C:14]([CH3:13])([CH3:22])[O:15][C:16]2=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]2 4-4,14;14-4,14",Room Temperature,Termination,recombine
"CCCCC(C[CH:10]F)F.[CH2:20]=[CH:21]F>>CCCCC(C[CH:10]([CH2:20][CH:21]F)F)F 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC[C:10](C)Br.[Cl:20][Cl:21]>>CC[C:10](C)([Cl:20])Br.[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
